Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
atorvastatin
 
Attending: ___.
 
Chief Complaint:
hypertension 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ woman with a history of poorly controlled HTN, HLD,
OA who presents for hypertensive emergency.

She presents from outpatient ___ clinic appointment, where she
was incidentally noted to have elevated BP 249/135, for which 
she
was referred to the ED. She reports that she had a posterior
bilateral HA, described as a pressure, no radiation. She also 
had
L eye blurry vision, and tingling in her fingertips bilaterally.
These symptoms started at some point during the day yesterday.
She has had similar symptoms in the past. She has had similar
headaches in the past when she reports feeling dehydrated. She
has had blurry vision intermittently for the past few months,
about once a month. 

She reports that she has had multiple healthcare encounters in
the past for elevated blood pressure. She went to the ED about 6
months ago with epistaxis and was found to have SBP 300, per
patient. A few weeks ago, she had SBP 240s when she presented 
for
colonoscopy. She reports frequent medication noncompliance,
though she has bought a pill box and tried to take meds more
regularly in the past two weeks. 

No weakness, N/V, CP, SOB, palpitations, diaphoresis,
fever/chills. 

In the ED, initial vitals: 97.7 85 223/91 18 100% RA  
- Exam notable for: without nuchal rigidity; she had impaired
verbal recall but was able to identify her family members and
famous faces. Visual fields were full. She had decreased 
pinprick
in her arms circumferentially proximal to her mid-forearms and
distal to her elbows and she had diffusely brisk reflexes 
without
clonus or spread and no pathologic reflexes. LLE toe was
equivocal, RLE was upgoing. She was able to ambulate unassisted
but had trouble with stress walking.  
 - Labs notable for:  WBC 12.4, Lytes WNL, Trop <0.01, negative
Utox, 
UA small ___, 9 WBC, few Bacteria
 - Imaging notable for: NCHCT without acute process, L pons
hypodensity. MRI head showed chronic infarct L pons. CTA head
with Multifocal intracranial atherosclerosis, internal carotid
stenosis. 

 - Pt given: IV hydral 5x2, metoprolol 5 IV x2, metoprolol 50 
po,
amlodipine 5, lisinopril 40, macrobid ___, Tylenol, omeprazole  
 - Vitals prior to transfer: 98.1 65 163/90 20 97% RA  
 
 On the floor, patient reports feeling well. Reports that L eye
blurry vision has resolved. She still has a mild residual
posterior occipital pressure-like HA. No more tingling in
fingertips. No SOB, CP. No palpitations in the past few days, 
but
she does report that she has felt palpitations in the past. No
urinary symptoms.   
 
REVIEW OF SYSTEMS:  10-point ROS is negative except as in HPI
above. 

 
Past Medical History:
HTN
HLD
OA--shoulders, hip, knees
L foot fracture s/p plate/pins
Tonsillectomy
Tubal ligation     
 
Social History:
___
Family History:
Father had lung cancer at ___ 
Brother has cancer in the blood 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
 VITALS:  159 / 96 65 18 96 Ra 
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, small 
protrusion on upper hard palate, EOMI, PERRL. R sided nystagmus. 
Neck supple. 
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, no clubbing, cyanosis or edema  
 Skin: Warm, dry, no rashes or notable lesions.  
 Neuro: alert and oriented, fluent speech, CNII-XII intact, ___ 
strength bl upper/lower extremities, SILT, intact finger to 
nose, intact rapid alternating movements.   

DISCHARGE PHYSICAL EXAM: 
=========================
VITALS: 97.8PO 143 / 87R Sitting 75 18 98 Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, small
protrusion on upper hard palate, EOMI, PERRL.  Neck supple. 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, 
rubs,gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: alert and oriented, fluent speech, CNII-XII intact, ___ 
strength bl upper/lower extremities, SILT, intact finger to 
nose, intact rapid alternating movements. 

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 05:50PM BLOOD WBC-12.4* RBC-5.14 Hgb-15.3 Hct-46.1* 
MCV-90 MCH-29.8 MCHC-33.2 RDW-13.0 RDWSD-42.6 Plt ___
___ 05:50PM BLOOD Neuts-63.8 ___ Monos-4.8* Eos-1.9 
Baso-0.7 Im ___ AbsNeut-7.89* AbsLymp-3.54 AbsMono-0.59 
AbsEos-0.24 AbsBaso-0.09*
___ 05:50PM BLOOD Glucose-95 UreaN-15 Creat-0.8 Na-142 
K-4.8 Cl-102 HCO3-24 AnGap-16
___ 05:50PM BLOOD ALT-16 AST-32 AlkPhos-139* TotBili-0.5
___ 05:50PM BLOOD cTropnT-<0.01
___ 05:50PM BLOOD Albumin-4.6 Calcium-10.1 Phos-3.9 Mg-2.2
___ 05:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISCHARGE LABS: 
===============
___ 05:30AM BLOOD WBC-10.0 RBC-4.78 Hgb-14.1 Hct-42.8 
MCV-90 MCH-29.5 MCHC-32.9 RDW-13.1 RDWSD-42.9 Plt ___
___ 05:30AM BLOOD Glucose-98 UreaN-16 Creat-0.7 Na-141 
K-4.4 Cl-103 HCO3-26 AnGap-12
___ 05:30AM BLOOD Calcium-9.4 Phos-3.8 Mg-2.2

MICROBIOLOGY: 
=============
___ 05:46PM URINE Color-Straw Appear-Clear Sp ___
___ 05:46PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM*
___ 05:46PM URINE RBC-1 WBC-9* Bacteri-FEW* Yeast-NONE 
Epi-0

___ 5:46 pm URINE
                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING: 
========

TTE 
___ 
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). No masses or thrombi are seen in the left 
ventricle. There is no left ventricular outflow obstruction at 
rest or with Valsalva. Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) are mildly thickened. No masses or vegetations are seen on 
the aortic valve. There is a minimally increased gradient 
consistent with minimal aortic valve stenosis. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. No mass or 
vegetation is seen on the mitral valve. The pulmonary artery 
systolic pressure could not be determined. No vegetation/mass is 
seen on the pulmonic valve. There is a trivial/physiologic 
pericardial effusion. 

 IMPRESSION: No definite cardiac source of embolism identified. 
Mild symmetric left ventricular hypertrophy with normal cavity 
size, and regional/global systolic function. Minimal aortic 
stenosis.  

MRI head w w/o contrast 
___ 
1. No acute infarction.  Small chronic infarction in the left
pons, 
corresponding to the hypodensity on the preceding CT exams. 
2. No specific imaging evidence for PRES. 
3. Supratentorial white matter signal abnormalities are
nonspecific but suggestive of chronic small vessel ischemic
disease. 
4. Mild global parenchymal volume loss with superimposed
disproportionately advanced medial temporal lobe and perisylvian
volume loss. 
5. Intracranial left vertebral artery narrowing, as seen on the
preceding CTA. 

CXR 
___ 
No evidence of an acute cardiopulmonary abnormality. 
Contour abnormality right lung base most likely eventration,
right 
hemidiaphragm. 

CTA HEAD W&W/O C & RECONS 
___ 
1. No acute hemorrhage.  No CT evidence of acute major vascular
territory infarction in the supratentorial compartment. 
Indeterminate hypodensity in the left pons, similar to the CT
from approximately 3.5 hours earlier, 
compatible with an infarct of unknown chronicity. 
2. Proximal internal carotid stenosis, approximately 60% on the
right and approximately 30% on the left by NASCET criteria. 
3. Multifocal intracranial atherosclerosis, as detailed above. 
Mild to moderate narrowing of the intracranial left vertebral
artery.  Short-segment moderate to severe narrowing of the
intracranial right vertebral artery.  Mild to moderate narrowing
of the supraclinoid right internal carotid artery. 
4. Large periapical lucency at ___ 8 with dehiscence of the
buccal cortex.  Please correlate with dental exam with active
inflammation may be present. 

CT HEAD W/O CONTRAST 
___  
No definite acute intracranial process.  Hypodensity in the left
aspect of the pons which may represent artifact versus infarct,
potentially chronic though not fully evaluated.  If further
characterization desired, MRI may offer additional detail. 

BILAT HIPS (AP, LAT, & PELVIS) 
___ 
Severe degenerative changes at both hip joints.  Changes are
slightly more pronounced on the right.  No definite acute
fracture.  Small lucency projecting over the right femoral head
junction is felt most likely to represent overlap with
osteophytes of the acetabulum. 

 
Brief Hospital Course:
___ woman with a history of poorly controlled HTN, HLD, 
osteoarthritis who presented for hypertensive emergency, with 
headache and L eye blurry vision. 

ACUTE/ACTIVE PROBLEMS: 

# Hypertensive emergency 
# Headache, blurry vision
She was incidentally found to be hypertensive at an outpatient 
clinic visit, for which she was referred to ED. BP on admission 
223/91. She reported headache and blurry vision, which were 
attributed to hypertensive emergency. Neurology was consulted, 
with differential also including TIA. NCHCT without acute 
changes; MRI head showed chronic L pontine infarct without 
evidence of PRES. CTA showed intracranial stenosis involving 
both vertebral arteries and less than 50% stenosis of the right 
ICA bifurcation. She reports significant medication 
noncompliance. She was continued on home lisinopril 40, and 
started on amlodipine 10 mg daily. BPs by discharge generally 
ranged 140s-170/70-90s and require further outpatient titration. 
She was monitored on tele without events. TTE overall 
unremarkable. TSH was mildly elevated at 4.3, free T4 1.1.  We 
had extensive conversations with the patient regarding 
importance of medication compliance and risks of non-compliance 
and discussed techniques for helping to ensure med compliance.  
Pt met with OT who also discussed techniques for helping her to 
remember her meds.   

# Asymptomatic bacteriuria 
Patient with UA notable for small leuks and few bacteria, with a 
negative urine
culture. She was asymptomatic. Antibiotics were held (she 
received macrobid x1 in the ED). 

# Carotid and Vertebral Artery Stenosis
Incidentally Noted on CTA: Proximal internal carotid stenosis, 
approximately 60% on the right and approximately 30% on the left 
by NASCET criteria. Multifocal intracranial atherosclerosis. 
Mild to moderate narrowing of the intracranial left vertebral 
artery. Short-segment moderate to severe narrowing of the 
intracranial right vertebral artery. Should have followup 
imaging of her carotid arteries in 6 months to assess for 
worsening stenosis. She was started on ASA 81 and transitioned 
to high intensity rosuvastatin.

CHRONIC/STABLE PROBLEMS: 

# HLD: switched from home pravastatin to rosuvastatin 

# Osteoarthritis: Held NSAIDS given hypertension as above. Pain 
control with PRN Tylenol. 

# Tooth pain: pt incidentally had a large periapical lucency at 
___ 8 with dehiscence of the buccal cortex.  Exam relatively 
benign except for mild ttp of gums in anterior upper jaw and 
loose tooth.  Recommended dental f/u.

TRANSITIONAL ISSUES: 
====================
- Please monitor BPs closely on followup, should add diuretic 
for additional BP control given she that is ___.
- Please continue to emphasize medication compliance with 
patient.
- The CTA of her head showed intracranial stenosis involving 
both vertebral arteries and less than 50% stenosis of the right 
ICA bifurcation. She should have followup imaging of her carotid 
arteries in 6 months to assess for worsening stenosis. 
- Consider outpatient optho referral for blurry vision. (She 
complained of blurry vision briefly with BP 150s/80s.)
-pt aware that she should arrange dental f/u

# Code status: full code, presumed
# Health care proxy/emergency contact: ___ 
Relationship: Husband 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Fish Oil (Omega 3) Dose is Unknown  PO DAILY 
4. Glucosamine (glucosamine sulfate) unknown  oral unknown 
5. Lisinopril 40 mg PO DAILY 
6. meloxicam 15 mg oral 1 tablet after meals 
7. Omeprazole 20 mg PO DAILY 
8. Osteo Bi-Flex Triple Strength 
(___) 750 mg-644 mg- 30 mg-1 mg oral 
DAILY 
9. Pravastatin 40 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
2.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Rosuvastatin Calcium 20 mg PO QPM 
RX *rosuvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Fish Oil (Omega 3) continue at current dosing mg PO DAILY  
7.  Lisinopril 40 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  Osteo Bi-Flex Triple Strength 
(___) 750 mg-644 mg- 30 mg-1 mg oral 
DAILY  
11. HELD- Glucosamine (glucosamine sulfate) unknown  oral 
unknown  This medication was held. Do not restart Glucosamine 
until confirming dosing.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS 
Hypertensive emergency 
Carotid and vertebral artery stenosis
Atherosclerosis

SECONDARY DIAGNOSIS 
Hyperlipidemia
Osteoarthritis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you at ___ 
___. 

WHY WERE YOU ADMITTED? 
- Your blood pressure was dangerously high, and you had headache 
with blurry vision. 

WHAT HAPPENED IN THE HOSPITAL? 
- You received medications to control your high blood pressure. 
- You received imaging of your head, which was overall 
reassuring. 

WHAT SHOULD YOU DO ON DISCHARGE? 
- Please be sure to TAKE ALL YOUR MEDICATIONS DAILY. 
- Please do not take meloxicam anymore.
- It is very important that you get your blood pressure under 
better control, to prevent consequences including stroke or 
heart problems. 
- Please go to your follow up appointments as scheduled. 

We wish you the best, 
Your ___ team 

 
Followup Instructions:
___